US03997535
b. 6,7Dimethyl-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide
6,7-Dimethyl-2-quinoxalinecarboxylic acid (0.7 g) and N,N'-carbonyldiimidazole (0.84 g) in dimethylformamide (10 ml) were stirred and heated at 60° for 6 hours. 5Amino-1H-tetrazole (0.66 g) was added and the mixture was stirred and heated at 60° for a further 30 minutes. The solid was collected and dissolved in aqueous dimethylaminoethanol. Aqueous acetic acid was added and the solid was collected and dried. It had m.p. 304° (d) (46%).

reactant | 6,7-Dimethyl-2-quinoxalinecarboxylic acid | 0.7 g | CC=1C=C2N=CC(=NC2=CC1C)C(=O)O | C11H10N2O2
reactant | 5Amino-1H-tetrazole | 0.66 g | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6,7Dimethyl-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | CC=1C=C2N=CC(=NC2=CC1C)C(=O)NC1=NN=NN1 | C12H11N7O
